US08183241B2
A solution of 4-propylpyrrolidin-2-one x1 (30 g, 0.236 mol), aqueous formaldehyde (37%, 3.5 eq, 0.826 mol, 71 ml), and potassium hydroxyde (0.05 eq, 0.012 mol, 0.662 g) in 150 ml of ethanol is refluxed for 24 hours. After evaporation of the solvent under reduced pressure, the crude product is poured in saturated NaHCO3 aqueous solution and then extracted with CH2Cl2. The cumulated organic layers are dried over MgSO4, filtered and evaporated under reduced pressure to yield compound 1-(hydroxymethyl)-4-propylpyrrolidin-2-one x2 as a colorless oil.

reactant | 4-propylpyrrolidin-2-one | C(CC)C1CC(NC1)=O | C7H13NO
reactant | formaldehyde | 0.826 mol, 71 ml, 3.5 eq | C=O | CH2O
reactant | potassium | [K] | K
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 1-(hydroxymethyl)-4-propylpyrrolidin-2-one | Yield: 100% | OCN1C(CC(C1)CCC)=O | C8H15NO2
